US05814631
Synthesis of 7-chloro-3-(4-trifluoromethylbenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 134)
1.67 g (6.67 mmol) of 4-trifluoromethylbenzenesulfonylisocyanate and 1.14 g (6.67 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 888 mg of the above-identified compound (yield 32.9%). Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δppm, DMSO-d6):7.13 (1H,s), 7.23 (1H,d), 7.87 (1H,d), 8.06 (2H,d), 8.39 (2H,d), 11.78 (1H,br).

reactant | 4-trifluoromethylbenzenesulfonylisocyanate | 6.67 mmol, 1.67 g | FC(C1=CC=C(C=C1)S(=O)(=O)N=C=O)(F)F | C8H4F3NO3S
reactant | 2-amino-4-chlorobenzoic acid | 6.67 mmol, 1.14 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(4-trifluoromethylbenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 888 mg, yield 32.9% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)=O | C15H8ClF3N2O4S
